US07456169B2
{2-[(2-methoxy-5-nitrophenoxy)methoxy]ethyl}(trimethyl)silane
A mixture of 2-methoxy-5-nitrophenol (10 g, 59.1 mmol) in dichloromethane (150 mL) was treated with 2-(trimethylsilyl)ethoxymethyl chloride (10.5 mL, 59.3 mmol) and N,N-diisopropylethylamine (11.3 mL, 64.9 mmol) at room temperature and stirred for 1.5 hours. The reaction mixture was then concentrated under vacuum, diluted with ethyl acetate, washed with water and brine, dried (MgSO4), filtered, and concentrated under vacuum to provide the desired product.

reactant | 2-methoxy-5-nitrophenol | 59.1 mmol, 10 g | COC1=C(C=C(C=C1)[N+](=O)[O-])O | C7H7NO4
reactant | 2-(trimethylsilyl)ethoxymethyl chloride | 59.3 mmol, 10.5 mL | C[Si](CCOCCl)(C)C | C6H15ClOSi
reactant | N,N-diisopropylethylamine | 64.9 mmol, 11.3 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | {2-[(2-methoxy-5-nitrophenoxy)methoxy]ethyl}(trimethyl)silane | COC1=C(OCOCC[Si](C)(C)C)C=C(C=C1)[N+](=O)[O-] | C13H21NO5Si
